US07893056B2
Tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (0.51 g, 0.8868 mmol) was dissolved in MeOH (5 mL) and HCl (4M in 1,4-dioxane) (5 mL). The reaction mixture was left to stir overnight, then evaporated and purified by RP-HPLC to provide 2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone as an orange oil (0.105 g). LCMS: (M+H)+=275.0.

reactant | Tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 0.8868 mmol, 0.51 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NCC=1N=CSC1)Cl)C(=O)OC(C)(C)C | C23H32ClFN6O6S
solvent | MeOH | 5 mL | CO | CH4O
solvent | HCl | 4M, 5 mL | Cl | ClH
product | 2-chloro-5-fluoro-6-[(1,3-thiazol-4-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone | 0.105 g | ClC=1NC(=C(C(N1)=NN)F)NCC=1N=CSC1 | C8H8ClFN6S
